US07429594B2
2-[3-(4-Hydroxy-phenyl)-2-oxo-propylamino]-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one
To a chilled (0° C.) stirring solution of 2-[3-(4-methoxy-phenyl)-2-oxo-propylamino]-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one (250 mg, 0.21 mmol ) in 20 mL dichloromethane under an atmosphere of nitrogen was added boron tribromide (39 μL, 0.42 mmol) in 0.4 mL of dichloromethane. The resulting precipitate was stirred for 18 h warming to room temperature. The solvent was removed under reduced pressure, then the product was dissolved in 4 mL methanol. The product was purified on on reverse phase high performance chromatography eluting with a water/acetonitrile (0.1% TFA) gradient. The final product was lyophilized from 50% acetonitrile/water to give a yellow powder. M+1=477.2 NMR (CD3CN/D2O 3:1) s (3H, 3.40 ppm), s (2H, 3.60 ppm), s (2H, 4.25 ppm), d (2H, 6.51 ppm), d (2H, 6.95 ppm), d (1H, 7.22 ppm), m (3H, 7.4-7.5 ppm), d (2H, 7.5 ppm), d (1H, 7.72 ppm), d (1H, 7.78), d (2H, 8.30 ppm).

reactant | 2-[3-(4-methoxy-phenyl)-2-oxo-propylamino]-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one | 0.21 mmol, 250 mg | COC1=CC=C(C=C1)CC(CNC1=NC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1)=O | C30H26N4O3
reactant | boron tribromide | 0.42 mmol, 39 μL | B(Br)(Br)Br | BBr3
reactant | CD3CN D2O | [2H]C(C#N)([2H])[2H].[2H]O[2H]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.4 mL | ClCCl | CH2Cl2
product | 2-[3-(4-Hydroxy-phenyl)-2-oxo-propylamino]-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one | OC1=CC=C(C=C1)CC(CNC1=NC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1)=O | C29H24N4O3
